US07790895B2
N,N,N′-trimethylethane (1.55 mL, 12 mmol) was dissolved in THF (30 mL) and cooled to −78° C. 2.5 M n-butyllithium (4.4 mL) was added into the reaction mixture, which was then stirred for 15 min, before the addition of pyridine-3-carbaldehyde (0.94 mL, 10 mmol). The reaction mixture was maintained at −78° C. for 15 min, then n-butyllithium (8 mL) was added slowly so that the temperature was always below −42° C. The reaction mixture was stirred 1 hour at 42° C., then cooled to −78° C. before it was transfer through a cannula into a solution of 3-cyanobenzaldehyde (23.9 g) in THF (5 mL) at −78° C., then stirred again for 15 min. The reaction mixture was then quenched with ammonium chloride aqueous solution and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and purified by flash chromatography eluted with 5% methanol in dichloromethane to yield 3-[(3-formyl-pyridin-4-yl)-hydroxy-methyl]-benzonitrile as a yellow solid.

reactant | n-butyllithium | 2.5 M, 4.4 mL | C(CCC)[Li]
reactant | pyridine-3-carbaldehyde | 10 mmol, 0.94 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | n-butyllithium | 8 mL | C(CCC)[Li]
reactant | 3-cyanobenzaldehyde | 23.9 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[(3-formyl-pyridin-4-yl)-hydroxy-methyl]-benzonitrile | C(=O)C=1C=NC=CC1C(C=1C=C(C#N)C=CC1)O | C14H10N2O2
